US07750184B2
N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-trifluoromethanesulfonamide
The title compound is prepared from 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one and trifluoromethane sulfonyl chloride using a procedure analogoues to Example 17 (45%).

reactant | 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | NC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C)C | C25H35NO2
reactant | trifluoromethane sulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | N-(4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-trifluoromethanesulfonamide | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)NS(=O)(=O)C(F)(F)F)C)C)=O)(C)C | C26H34F3NO4S
